US07476741B2
Compounds of this invention having the Formulae I-IV can also be prepared as illustrated by examplary reactions in Scheme V. A phenyl propionitrile is prepared from the condensation of acrylonitrile and dimethylaminophenol. The nitrile was hydrolysed to the acid and the intermediate compound cyclized to yield 7-dimethylamino-chroman-4-one. Trimethoxyiodobenzene was lithiated with butyl lithium and treated with 7-dimethylamino-chroman-4-one to produce dimethyl-[4-(3,4,5-trimethoxy-phenyl)-2H-chromen-7-yl]-amine. Alternatively, 7-dimethylamino-chroman-4-one could be first treated with copper chloride, followed by the addition of lithio trimethoxybenzene, to produce [3-chloro-4-(3,4,5-trimethoxy-phenyl)-2H-chromen-7-yl]-dimethyl-amine.

reactant | Trimethoxyiodobenzene | COC1=C(C(=C(C=C1)I)OC)OC | C9H11IO3
reactant | butyl lithium | C(CCC)[Li]
reactant | 7-dimethylamino-chroman-4-one | CN(C1=CC=C2C(CCOC2=C1)=O)C | C11H13NO2
product | dimethyl-[4-(3,4,5-trimethoxy-phenyl)-2H-chromen-7-yl]-amine | CN(C1=CC=C2C(=CCOC2=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C20H23NO4
